US07947691B2
3-Hydroxy-1-phenethyl-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with 2-Bromoethylbenzene and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 3.08-3.14 (m, 2H); 4.67-4.73 (m, 2H); 7.24-7.38 (m, 5H); 7.61-7.69 (m, 2H); 8.20 (dd, J1=7 Hz, J2=2 Hz, 1H); 8.30 (dd, J1=7 Hz, J2=2 Hz, 1H); Ret. time=2.77 min., m/z=339.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | 2-Bromoethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
product | 3-Hydroxy-1-phenethyl-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)SC1=C2C=CC=C1)CCC1=CC=CC=C1)=O | C18H14N2O3S
